US05865855
Example 6: 4-((5-amino-3-methyl-1-phenyl-1H-pyrazole-4-yl)imino)-4,5-dihydro-5-imino-3-methyl-1H-pyrazole (VII)
2.6 g 4,5-diamino-3-methyl-1-phenyl-1H-pyrazole dihydrochloride were dissolved in a mixture of 30 ml water and 30 ml ethanol. The pH of the resulting solution was then adjusted to 9 with concentrated ammonia. Subsequently the reaction mixture was stirred for 17 hours with a gasifying stirrer. The precipitated dye compounds was separated by filtration, washed with water and dried. The yield amounted to 1.2 g.

reactant | 4,5-diamino-3-methyl-1-phenyl-1H-pyrazole dihydrochloride | 2.6 g | Cl.Cl.NC=1C(=NN(C1N)C1=CC=CC=C1)C
reactant | ammonia | N | H3N
solvent | water | 30 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-((5-amino-3-methyl-1-phenyl-1H-pyrazole-4-yl)imino)-4,5-dihydro-5-imino-3-methyl-1H-pyrazole | NC1=C(C(=NN1C1=CC=CC=C1)C)N=C1C(=NNC1=N)C | C14H15N7
